US05919806
Synthesis of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-trichloroacetylureido-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole
200 mg (0.850 mmol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole and 20 ml of dichloromethane were stirred at room temperature, and 100 μl (0.935 mmol) of trichloroacetyl isocyanate were added thereto and stirred for 5 hours. The crystals precipitated were filtered off to obtain 90 mg of the intended compoundas colorless crystals. (yield: 25%)

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 0.850 mmol, 200 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | trichloroacetyl isocyanate | 0.935 mmol, 100 μl | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-trichloroacetylureido-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | yield: 25% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(=O)NC(C(Cl)(Cl)Cl)=O)O)C | C14H13Cl3N4O5
